US08044068B2
t-Butyl 4-(2-((S)-1-(2-biphenyl-2-ylethanoyl)pyrrolidin-3-ylamino)quinazolin-4-yl)-[1,4]diazepane-1-carboxylate (0.53 g) synthesized in the same manner as in Example 1 was dissolved in ethyl acetate (3 mL), followed by addition of a solution (2.2 mL) of 4 M HCl in ethyl acetate, and the mixture was stirred overnight. Precipitated solids were collected by filtration and then washed with hexane to obtain 2-biphenyl-2-yl-1-((S)-3-(4-[1,4]diazepan-1-ylquinazolin-2-ylamino)pyrrolidin-1-yl)ethanone dihydrochloride (0.15 g). (2) 2-Biphenyl-2-yl-1-((S)-3-(4-[1,4]diazepan-1-ylquinazolin-2-ylamino)pyrrolidin-1-yl)ethanone di hydrochloride (40 mg) was suspended in chloroform (3 mL), followed by addition of pyridine (12 mg) and acetic anhydride (8.5 mg), and the mixture was stirred at room temperature for 3 h. The reaction solution was concentrated under reduced pressure and purified by silica gel column chromatography (chloroform/methanol=10:1) to obtain the title compound (compound 1-210) (46 mg). The resulting purification product was dissolved in ethyl acetate (1.0 mL), followed by addition of a solution (0.015 mL) of 4 M HCl in ethyl acetate, and the mixture was stirred to obtain the title compound (compound 1-212) (12 mg).

reactant | t-Butyl 4-(2-((S)-1-(2-biphenyl-2-ylethanoyl)pyrrolidin-3-ylamino)quinazolin-4-yl)-[1,4]diazepane-1-carboxylate | 0.53 g | C1(=C(C=CC=C1)CC(=O)N1C[C@H](CC1)NC1=NC2=CC=CC=C2C(=N1)N1CCN(CCC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C36H42N6O3
reactant | HCl | 4 M, 2.2 mL | Cl | ClH
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | 2-biphenyl-2-yl-1-((S)-3-(4-[1,4]diazepan-1-ylquinazolin-2-ylamino)pyrrolidin-1-yl)ethanone dihydrochloride | 0.15 g | Cl.Cl.C1(=C(C=CC=C1)CC(=O)N1C[C@H](CC1)NC1=NC2=CC=CC=C2C(=N1)N1CCNCCC1)C1=CC=CC=C1 | InChI=1S/C31H34N6O.2ClH/c38-29(21-24-11-4-5-12-26(24)23-9-2-1-3-10-23)37-19-15-25(22-37)33-31-34-28-14-7-6-13-27(28)30(35-31)36-18-8-16-32-17-20-36;;/h1-7,9-14,25,32H,8,15-22H2,(H,33,34,35);2*1H/t25-;;/m0../s1
